US06117869
When in the procedure of Example 1, Step (b), thianthrene-2-sulfonyl chloride is replaced by phenoxathiine-2-sulfonyl chloride and (L)-valine-t-butyl ester is replaced with (D)-valine-t-butyl ester, (S)-3-methyl-2-(phenoxathiine-2-sulfonylamino)-butyric acid is obtained as an off-white solid; mp 171-175° C.

reactant | thianthrene-2-sulfonyl chloride | C1=C(C=CC=2SC3=CC=CC=C3SC12)S(=O)(=O)Cl | C12H7ClO2S3
reactant | phenoxathiine-2-sulfonyl chloride | C1=C(C=CC=2OC3=CC=CC=C3SC12)S(=O)(=O)Cl | C12H7ClO3S2
reactant | (L)-valine-t-butyl ester | C(C)(C)(C)OC([C@@H](N)C(C)C)=O | C9H19NO2
reactant | (D)-valine-t-butyl ester | C(C)(C)(C)OC([C@H](N)C(C)C)=O | C9H19NO2
product | (S)-3-methyl-2-(phenoxathiine-2-sulfonylamino)-butyric acid | CC([C@@H](C(=O)O)NS(=O)(=O)C1=CC=2SC3=CC=CC=C3OC2C=C1)C | C17H17NO5S2
